US05173497
To a chilled (0° C.) solution of 1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (1.41 g) in methylene chloride (20 ml) was added pyridine (1.41 ml) under an atmosphere of N2. Solid pyridinium hydrobromide perbromide (2.23 g) was added with stirring to the mixture and the resulting solution was maintained at 0° C. for 1 hour. The mixture was poured into water (100 ml) and the aqueous and organic phases separated. The organic phase was washed twice with 50 ml portions of brine and 50 ml portions of saturated sodium bicarbonate and then with 50 ml of brine. After drying the organic phase over Na2SO4 and filtering, the solvent was removed under reduced pressure. The resulting oil was purified using column chromatography on silica gel with 10% methanol in ethyl acetate as eluent. The appropriate fractions were combined, evaporated and repurified using column chromatography on silica gel with 5% methanol in ethyl acetate as eluant to afford 1.5 g of 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole, as an oil.

reactant | 1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 1.41 g | CN1CCC2(C1N(C1=CC=CC=C21)C)C | C13H18N2
reactant | pyridine | 1.41 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 1.5 g | BrC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17BrN2
